US09403802B2
8-chloro-1-(4-methoxybenzyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To a solution of ethyl 4-oxo-8-chloro-1,4-dihydroquinoline-3-carboxylate (1.0 g), potassium iodide (0.66 g) and sodium carbonate (1.1 g) in DMF (20 mL) was added 1-(chloromethyl)-4-methoxybenzene (0.7 mL), and the mixture was stirred at 70° C. overnight. The reaction mixture was diluted with water and ethyl acetate, and the organic layer was separated, washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated. The residue was solidified with a diisopropyl ether-ethyl acetate mixed solution. The obtained solid was dissolved in ethanol-THF (1:1, 12 mL), 1 N aqueous sodium hydroxide solution (6 mL) was added, and the mixture was stirred at room temperature for 6 hr. The reaction mixture was diluted with water, neutralized with 1 N hydrochloric acid (10 mL), and the precipitate was collected by filtration, washed with water, and dried to give the title compound (0.52 g).

reactant | ethyl 4-oxo-8-chloro-1,4-dihydroquinoline-3-carboxylate | 1.0 g | O=C1C(=CNC2=C(C=CC=C12)Cl)C(=O)OCC | C12H10ClNO3
reactant | potassium iodide | 0.66 g | [I-].[K+]
reactant | sodium carbonate | 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 0.7 mL | ClCC1=CC=C(C=C1)OC | C8H9ClO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-chloro-1-(4-methoxybenzyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.52 g | ClC=1C=CC=C2C(C(=CN(C12)CC1=CC=C(C=C1)OC)C(=O)O)=O | C18H14ClNO4
